US04429146
Preparation of 8-(2,4-Dichlorophenoxyacetoxy)-3,6-dioxaoctyl 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrobenzoate
5-(2-Chloro-4-trifluoromethylphenoxy)-2-nitrobenzoyl chloride (4.0 g, 0.0105 mole) was added portionwise to a solution of 8-hydroxy-3,6-dioxaoctyl 2,4-dichlorophenoxyacetate (3.5 g, 0.103 mole), triethylamine (1.2 g, 0.103 mole) and THF (40 ml) over 5 mins. The resulting solution was held at reflux for 3 hrs. After the solvent was stripped off, the residue was taken into 2600 ml of ether, washed two times with NaHCO3 solution and two times with water. The ether solution was then dried over MgSO4 and concentrated to 5.9 g of 8-(2,4-dichlorophenoxyacetoxy)-3,6-dioxaoctyl 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrobenzoate, a brownish gum; nmr (CDCl3) δ3.30-4.02 (m, 8H), 4.25-4.62 (m, 4H), 4.70 (S, 2H), 6.65-8.24 (m, 9H); ir (CHCl3) 1750, 1770 Cm-1.

reactant | 5-(2-Chloro-4-trifluoromethylphenoxy)-2-nitrobenzoyl chloride | 0.0105 mole, 4.0 g | ClC1=C(OC=2C=CC(=C(C(=O)Cl)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C14H6Cl2F3NO4
reactant | 8-hydroxy-3,6-dioxaoctyl 2,4-dichlorophenoxyacetate | 0.103 mole, 3.5 g | ClC1=C(OCC(=O)OCCOCCOCCO)C=CC(=C1)Cl | C14H18Cl2O6
reactant | triethylamine | 0.103 mole, 1.2 g | C(C)N(CC)CC | C6H15N
reactant | THF | 40 ml | C1CCOC1 | C4H8O
solvent | ether | 2600 ml | CCOCC | C4H10O
product | 8-(2,4-Dichlorophenoxyacetoxy)-3,6-dioxaoctyl 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrobenzoate | ClC1=C(OC=2C=CC(=C(C(=O)OCCOCCOCCOC(COC3=C(C=C(C=C3)Cl)Cl)=O)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C28H23Cl3F3NO10
